US07012074B2
(a) 4-{[(2R)-3-Amino-2-hydroxypropyl]oxy}benzonitrile
4-[(2R)-Oxiranylmethoxy]benzonitrile (14.65 g, 83.6 mmol; prepared as described in international patent application WO 99/31100) was mixed with conc. NH4OH (64 mL) and 87 mL of isopropanol. The mixture was stirred at r.t for 18 h. The reaction mixture was filtered and the filtrate evaporated to give 14.6 g (91%) of the sub-title compound.

reactant | 4-[(2R)-Oxiranylmethoxy]benzonitrile | 83.6 mmol, 14.65 g | O1[C@H](C1)COC1=CC=C(C#N)C=C1 | C10H9NO2
reactant | NH4OH | 64 mL | [NH4+].[OH-]
solvent | isopropanol | 87 mL | C(C)(C)O | C3H8O
product | 4-{[(2R)-3-Amino-2-hydroxypropyl]oxy}benzonitrile | 14.6 g, 91% | NC[C@H](COC1=CC=C(C#N)C=C1)O | C10H12N2O2
